US09428508B2
In a flask equipped with a Dean-Stark water separator, 5-chloro-2-nitrobenzaldehyde (12.0 g, 64.7 mmol), ethylene glycol (8.0 g, 129.3 mmol) and p-toluenesulfonic acid (0.2 g) were dissolved in toluene (150 mL). The mixture was stirred at reflux for 8 hours. Dichloromethane was added and the organic phase was washed with saturated sodium bicarbonate and brine, then dried over anhydrous sodium sulfate, evaporated and purified by silica gel chromatography to afford the product 2-(5-chloro-2-nitrophenyl)-1,3-dioxolane (13.4 g, yield 90.0%).

reactant | water | O | H2O
reactant | 5-chloro-2-nitrobenzaldehyde | 64.7 mmol, 12.0 g | ClC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4ClNO3
reactant | ethylene glycol | 129.3 mmol, 8.0 g | C(CO)O | C2H6O2
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(5-chloro-2-nitrophenyl)-1,3-dioxolane | 13.4 g, yield 90.0% | ClC=1C=CC(=C(C1)C1OCCO1)[N+](=O)[O-] | C9H8ClNO4
